US05856489
Preparation of endo-3-amino-9-methyl-9-azabicyclo[3.3.1]nonane
A solution of 9-methyl-9-azabicyclo[3.3.1]nonan-3-one oxime (10 g, 0.06 moles) in methanol (70 ml) and 0.88 ammonia; (36 ml; 10.0 equivs) was hydrogenated at 50° C. and 50 psi (344.8 kPa)/H2 for 16 hrs using 5% Rhodium on carbon paste (1 g dry weight). The reaction mixture was cooled to room temperature and filtered to remove catalyst. The catalyst bed was washed with methanol and the methanolic solution was then evaporated under reduced pressure to give the title compound as an oil (8.6 g, 93% weight recovery) which solidified to a waxy solid on standing (8.6 g, 93%).

reactant | 9-methyl-9-azabicyclo[3.3.1]nonan-3-one oxime | 0.06 moles, 10 g | CN1C2CC(CC1CCC2)=NO | C9H16N2O
reactant | ammonia | N | H3N
solvent | methanol | 70 ml | CO | CH4O
product | endo-3-amino-9-methyl-9-azabicyclo[3.3.1]nonane | 8.6 g, 93% | CN1[C@@H]2CCC[C@H]1CC(C2)N | C9H18N2
